US04362728
To the 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-[4-(3-methylsulphonyl-2-methylisothioureido)butyl]-5-methylthiazole was added a 30% w/v ethanolic solution of methylamine (5 ml.) and the mixture allowed to stand overnight at ambient temperature. It was then evaporated to dryness and 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-[4-(2-methylsulphonyl-3-methylguanidino)butyl]-5-methylthiazole (0.17 g.) was isolated as the maleate salt from acetone, m.p. 165°-166°.

reactant | 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-[4-(3-methylsulphonyl-2-methylisothioureido)butyl]-5-methylthiazole | FC(CN=C(NC=1SC(=C(N1)CCCCNC(SC)=NS(=O)(=O)C)C)N)(F)F | C14H23F3N6O2S3
reactant | methylamine | 5 ml | CN | CH5N
product | 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-[4-(2-methylsulphonyl-3-methylguanidino)butyl]-5-methylthiazole | 0.17 g | FC(CN=C(NC=1SC(=C(N1)CCCCNC(=NS(=O)(=O)C)NC)C)N)(F)F | C14H24F3N7O2S2
